datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[C@@H]1CNC[C@H](C)[NH:10]1.O=C1c2cn[nH]c2N=C[N:21]1[H:20]>>C[C@@H]1CNC[C@H](C)[NH+:10]1[H:20].O=C1c2cn[nH]c2N=C[N-:21]1 10=20;20,21=21",
"CCSC(C)=[NH:10].Nc1[nH][n+:21]([H:20])c(N)c1/N=N/c1ccc(O)cc1>>CCSC(C)=[NH+:10][H:20].Nc1[nH][n:21]c(N)c1/N=N/c1ccc(O)cc1 10=20;20,21=21",
"ClCC[N+:21]1([H:20])CCOCC1.Nc1c2ccccc2[nH+]c2ccc([O-:10])cc12>>ClCC[N:21]1CCOCC1.Nc1c2ccccc2[nH+]c2ccc([O:10][H:20])cc12 10=20;20,21=21",
"C(=N/c1ncc2nc[nH]c2n1)\c1ccccc1[O:21][H:20].Cc1c[nH+]c([O-])[n:10]c1N>>C(=N/c1ncc2nc[nH]c2n1)\c1ccccc1[O-:21].Cc1c[nH+]c([O-])[n+:10]([H:20])c1N 10=20;20,21=21",
"CC[NH+](C)CCCNC(=O)/C=N/[O-:10].[S-]c1c2[nH]cnc2nc[n+:21]1[H:20]>>CC[NH+](C)CCCNC(=O)/C=N/[O:10][H:20].[S-]c1c2[nH]cnc2nc[n:21]1 10=20;20,21=21",
"Cc1ccccc1C(c1ccccc1C)=[N+:21](CC[NH+](C)C)[H:20].OCCCCCc1cccc[n:10]1>>Cc1ccccc1C(c1ccccc1C)=[N:21]CC[NH+](C)C.OCCCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CCC[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"COC(=O)C1=CCC[NH:10]C1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>COC(=O)C1=CCC[NH+:10]([H:20])C1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C(Cn1cccc1)[O:21][H:20].Oc1ccc2c3ccccc3c[n:10]c2c1>>O=C(Cn1cccc1)[O-:21].Oc1ccc2c3ccccc3c[n+:10]([H:20])c2c1 10=20;20,21=21",
"Clc1ccc(/C=N/[O:21][H:20])cc1.N#CCCN[NH2:10]>>Clc1ccc(/C=N/[O-:21])cc1.N#CCCN[NH2+:10][H:20] 10=20;20,21=21",
"CC[S+:21](C(O)(O)C(F)(F)F)[H:20].COc1ccc([NH2:10])cc1C[NH3+]>>CC[S:21]C(O)(O)C(F)(F)F.COc1ccc([NH2+:10][H:20])cc1C[NH3+] 10=20;20,21=21",
"CN1CCCC[N:10]1C.Cc1nc2nccnc2c[n+:21]1[H:20]>>CN1CCCC[N+:10]1(C)[H:20].Cc1nc2nccnc2c[n:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)C[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc2c(c1)c(C(O)C1CCCC[NH2+]1)cc[n:10]2.c1ccc2c(N[O:21][H:20])ccnc2c1>>COc1ccc2c(c1)c(C(O)C1CCCC[NH2+]1)cc[n+:10]2[H:20].c1ccc2c(N[O-:21])ccnc2c1 10=20;20,21=21",
"CCC1(c2ccccc2)NC(=O)[N:21]([H:20])C1=O.C[C@@H]1[C@@H]2Cc3ccc(O)cc3[C@@]1(C)CC[N:10]2CCF>>CCC1(c2ccccc2)NC(=O)[N-:21]C1=O.C[C@@H]1[C@@H]2Cc3ccc(O)cc3[C@@]1(C)CC[N+:10]2(CCF)[H:20] 10=20;20,21=21",
"CC1[NH2+]CCC[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1[NH2+]CCC[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1(C)CCC(=O)N1[O-:10].CCOCC[N+:21](C)(c1ccccc1)[H:20]>>CC1(C)CCC(=O)N1[O:10][H:20].CCOCC[N:21](C)c1ccccc1 10=20;20,21=21",
"Clc1cc(Cl)cc([O:21][H:20])c1.O=[N+]([O-])c1ccc([O-])c(C[N:10]2CCCCC2)c1>>Clc1cc(Cl)cc([O-:21])c1.O=[N+]([O-])c1ccc([O-])c(C[N+:10]2([H:20])CCCCC2)c1 10=20;20,21=21",
"Cc1ccc([O:21][H:20])c(C)c1.O=[N+]([O-])c1cc(C[N:10]2CCOCC2)c([O-])c2ccccc12>>Cc1ccc([O-:21])c(C)c1.O=[N+]([O-])c1cc(C[N+:10]2([H:20])CCOCC2)c([O-])c2ccccc12 10=20;20,21=21",
"C/C(=N/[O-:10])c1ccccc1.CC[NH+](CC)CCNc1nc(N)[n+:21]([H:20])c(C)c1C>>C/C(=N/[O:10][H:20])c1ccccc1.CC[NH+](CC)CCNc1nc(N)[n:21]c(C)c1C 10=20;20,21=21",
"[H][C:21](C(C)=O)(C(C)=O)[H:20].c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH:10]2)c1>>[H][C-:21](C(C)=O)C(C)=O.c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"N[N:21](C(=O)C(F)(F)C(F)(F)C(F)(F)F)[H:20].[NH3+]Nc1c2ccccc2cn[n:10]1>>N[N-:21]C(=O)C(F)(F)C(F)(F)C(F)(F)F.[NH3+]Nc1c2ccccc2cn[n+:10]1[H:20] 10=20;20,21=21",
"Nc1cccc([O:21][H:20])c1.c1coc(C[NH2+]CC[NH:10]Cc2ccco2)c1>>Nc1cccc([O-:21])c1.c1coc(C[NH2+]CC[NH+:10](Cc2ccco2)[H:20])c1 10=20;20,21=21",
"COc1ccc[n:10]c1C=O.Cc1c(C)n(C)[n+:21]([H:20])c1C>>COc1ccc[n+:10]([H:20])c1C=O.Cc1c(C)n(C)[n:21]c1C 10=20;20,21=21",
"C[Si](C)(CC(=O)[O-:10])c1ccccc1.c1cc([O:21][H:20])c2ncncc2c1>>C[Si](C)(CC(=O)[O:10][H:20])c1ccccc1.c1cc([O-:21])c2ncncc2c1 10=20;20,21=21",
"CC(C(=O)[O-])[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C(=O)[O-])[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"OCc1cccc(CO)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCc1cccc(CO)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1CC[NH:10]CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1CC[NH+:10]([H:20])CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCNC(N)=[O:10].Cc1cc(C)[n+:21]([H:20])c([S-])[nH+]1>>CCNC(N)=[O+:10][H:20].Cc1cc(C)[n:21]c([S-])[nH+]1 10=20;20,21=21",
"CC(=O)CC(=O)[O:21][H:20].CC(C)[NH:10]C[Si](C)(C)C>>CC(=O)CC(=O)[O-:21].CC(C)[NH+:10](C[Si](C)(C)C)[H:20] 10=20;20,21=21",
"CC1=Nc2ccc([N+](=O)[O-])cc2[N:10]=C(C)C1.CN(C)C=[N+:21](c1ccccc1)[H:20]>>CC1=Nc2ccc([N+](=O)[O-])cc2[N+:10]([H:20])=C(C)C1.CN(C)C=[N:21]c1ccccc1 10=20;20,21=21",
"CC[N+:21](CC)(CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C)[H:20].Cc1[nH]c(-c2ccccc2[S-])[n:10]c1C>>CC[N:21](CC)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C.Cc1[nH]c(-c2ccccc2[S-])[n+:10]([H:20])c1C 10=20;20,21=21",
